US06573289B1
Production of (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)-(pyridin-3-yl)methanol
3-Bromopyridine (0.92 ml) was dissolved in ether (20 ml), and the solution was cooled at −78° C. To the solution was slowly added dropwise a solution of n-butyllithium in hexane (1.6 M 5.9 ml), the mixture was stirred for 20 min at −78° C. To the reaction mixture was slowly added a solution of (6-methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone (1.0 g) in THF (8 ml), and the mixture was stirred for 30 min at −78° C. To the reaction mixture was added water, and mixture was diluted with 2% citric acid (50 ml). The dilution was extracted with ethyl acetate, washed with saturated aqueous solution of sodium chloride, dried and concentrated. The residue was recrystallized from a mixed solution of ethyl acetate and diethyl ether to give the titled compound (0.98 g) as a pale yellow powder.

reactant | 3-Bromopyridine | 0.92 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | (6-methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone | 1.0 g | COC=1C=C2C=CC(=CC2=CC1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N2O2
reactant | water | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | 1.6 M, 5.9 ml | CCCCCC | C6H14
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)-(pyridin-3-yl)methanol | 0.98 g | N1C=NC(=C1)C(O)(C=1C=NC=CC1)C1=CC2=CC=C(C=C2C=C1)OC | C20H17N3O2
